US09108938B2
2,4-dichloro-N-(2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide
From 2,4-dichlorobenzoic acid and 2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine.

reactant | 2,4-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | 2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine | O1CCN(CC1)C(CN)C=1C=NC(=NC1)C(F)(F)F | C11H15F3N4O
product | 2,4-dichloro-N-(2-morpholino-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)N2CCOCC2)C=CC(=C1)Cl | C18H17Cl2F3N4O2
